US05846982
To a solution of 0.32 gm (0.86 mMol) 5-chloro-3-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene in 3.0 mL dichloromethane were added 2.0 mL trifluoroacetic acid. The reaction mixture was stirred for 4 hours at room temperature and was then concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with chloroform containing 5% methanol. Fractions shown to contain product were combined and then concentrated under reduced pressure to give 0.14 gm (64%) of 5-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)benzothiophene as a foam. This material was dissolved in diethyl ether and the solution was saturated with hydrogen chloride. The resulting solution was concentrated under reduced pressure to give the title compound as an orange solid.

reactant | 5-chloro-3-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene | 0.86 mMol, 0.32 gm | ClC=1C=CC2=C(C(=CS2)C2(CCN(CC2)C(=O)OC(C)(C)C)O)C1 | C18H22ClNO3S
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 5-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)benzothiophene | 0.14 gm, 64% | ClC=1C=CC2=C(C(=CS2)C=2CCNCC2)C1 | C13H12ClNS
